US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (1.5 g) as starting compound, potassium carbonate (2.5 g) and 8-bromo-1-phenyl-1-octanone (1.3 g) were reacted and treated in the same manner as in Example 172 to give 0.70 g of 4-amino-5-chloro-2-methoxy-N-((1-(8-oxo-8-phenyloctyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 1.5 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-bromo-1-phenyl-1-octanone | 1.3 g | BrCCCCCCCC(=O)C1=CC=CC=C1 | C14H19BrO
product | 4-amino-5-chloro-2-methoxy-N-((1-(8-oxo-8-phenyloctyl)piperidin-4-yl)methyl)benzamide | 0.70 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCCC(C2=CC=CC=C2)=O)C=C1Cl)OC | C28H38ClN3O3
